US07947738B2
(18-f) Tert-butyl(±)-[(1R,5R,6R)-6-{[(tert-butoxycarbonyl)amino]methyl}-3-(hydroxymethyl)bicyclo[3.2.0]hept-3-en-6-yl]acetate
Water (1.4 mL) and 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (831 mg, 3.66 mmol) were added to a methylene chloride solution (25 mL) of tert-butyl(±)-[(1R,5R,6R)-6-{[(tert-butoxycarbonyl)amino]methyl}-3-{[(4-methoxybenzyl)oxy]methyl}bicyclo[3.2.0]hept-3-en-6-yl]acetate (1.19 g, 2.44 mmol) with stirring at 0° C. The mixture was stirred at this temperature 0° C. for 1 hour and further stirred at room temperature for 1 hour. Then, the reaction was terminated by the addition of a saturated aqueous solution of sodium bicarbonate, followed by extraction with methylene chloride. The organic layer was washed with water, a saturated aqueous solution of sodium bicarbonate, and saturated saline and dried over anhydrous sodium sulfate. The residue was filtered and concentrated under reduced pressure. Then, the obtained crude product was purified by silica gel column chromatography to obtain the compound of interest as an oil substance (571 mg, 64%).

reactant | Water | 1.4 mL | O | H2O
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 3.66 mmol, 831 mg | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | tert-butyl(±)-[(1R,5R,6R)-6-{[(tert-butoxycarbonyl)amino]methyl}-3-{[(4-methoxybenzyl)oxy]methyl}bicyclo[3.2.0]hept-3-en-6-yl]acetate | 2.44 mmol, 1.19 g | C(C)(C)(C)OC(=O)NC[C@@]1([C@H]2C=C(C[C@H]2C1)COCC1=CC=C(C=C1)OC)CC(=O)OC(C)(C)C | C28H41NO6
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | Tert-butyl(±)-[(1R,5R,6R)-6-{[(tert-butoxycarbonyl)amino]methyl}-3-(hydroxymethyl)bicyclo[3.2.0]hept-3-en-6-yl]acetate | C(C)(C)(C)OC(=O)NC[C@@]1([C@H]2C=C(C[C@H]2C1)CO)CC(=O)OC(C)(C)C | C20H33NO5
